US07482340B2
6-{2-[3-(Pyridin-2-yloxy)phenyl]chroman-6-yloxy}pyridin-3-ylamine
Using the same procedure described for 5-amino-2-(2-phenylchroman-6-yloxy)pyridine but replacing 5-nitro-2-(2-phenylchroman-6-yloxy)-pyridine by:

reactant | 5-amino-2-(2-phenylchroman-6-yloxy)pyridine | NC=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H18N2O2
reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
product | 6-{2-[3-(Pyridin-2-yloxy)phenyl]chroman-6-yloxy}pyridin-3-ylamine | N1=C(C=CC=C1)OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)N | C25H21N3O3
